US08314147B2
Intermediate 90: 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoic Acid (Intermediate 43)
Lithium hydroxide (16.3 g, 389 mmol) was added to a solution of ethyl 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoate (79 g, 259 mmol) in 1,4-dioxane (1 L) and water (0.5 L). The reaction mixture was stirred at 65° C. for 5 hours, allowed to cool and stood at room temperature for 14 hours. The reaction was concentrated to remove the 1,4-dioxane, and the resulting brown aqueous solution was washed with diethyl ether (3×1 L). The aqueous layer was then acidified with 2N HCl (approximately 200 ml) and the resulting precipitate filtered and washed with water to give a yellow solid. This was dried overnight at 40° C. in a vacuum oven to give the title compound as a yellow solid (66.38 g). MS (ES−) [C15H1335ClO3—H]− 275. 1H-NMR (400 MHz, d6-DMSO) δ 2.43 (3H, s), 5.14 (2H, s), 7.10-7.13 (1H, m), 7.21-7.23 (1H, m), 7.38-7.47 (4H, m), 7.52 (1H, s).

reactant | Lithium hydroxide | 389 mmol, 16.3 g | [OH-].[Li+]
reactant | ethyl 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoate | 259 mmol, 79 g | ClC=1C=C(C=CC1)COC=1C=CC(=C(C(=O)OCC)C1)C | C17H17ClO3
solvent | 1,4-dioxane | 1 L | O1CCOCC1 | C4H8O2
solvent | water | 0.5 L | O | H2O
product | 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoic Acid | 66.38 g | ClC=1C=C(C=CC1)COC=1C=CC(=C(C(=O)O)C1)C | C15H13ClO3
